US07115611B2
[rac]-(2-Methyl-4-{1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-butoxy}-phenoxy)-acetic acid
A] The title compound was prepared in analogy to example 47, via [rac]-(2-methyl-4-{1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-butoxy}-phenoxy)-acetic acid ethyl ester, but using in step A] [rac]-3-(1-chloro-butyl)-2-methyl-6-(3-trifluoromethyl-phenyl)-pyridine (example 4B]) instead of [rac]-3-(1-chloro-ethyl)-2-methyl-6-(3-trifluoromethyl-phenyl)-pyridine as light yellow oil.

reactant | [rac]-(2-methyl-4-{1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-butoxy}-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)OC(CCC)C=1C(=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C)C)=O | C28H30F3NO4
reactant | [rac]-3-(1-chloro-butyl)-2-methyl-6-(3-trifluoromethyl-phenyl)-pyridine | ClC(CCC)C=1C(=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C | C17H17ClF3N
reactant | [rac]-3-(1-chloro-ethyl)-2-methyl-6-(3-trifluoromethyl-phenyl)-pyridine | ClC(C)C=1C(=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C | C15H13ClF3N
product | [rac]-(2-Methyl-4-{1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-butoxy}-phenoxy)-acetic acid | CC1=C(OCC(=O)O)C=CC(=C1)OC(CCC)C=1C(=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C | C26H26F3NO4
